US09303007B2
Potassium carbonate (34.3 mg, 0.248 mmol) was added to a solution of methyl (S)-3-methyl-1-oxo-1-((1R,3S,5R)-3-(5-((trimethylsilyl)ethynyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)butan-2-ylcarbamate (200 mg, 0.497 mmol) in methanol (5 mL) and the reaction was flushed with nitrogen, sealed and then heated at 50° C. for 4 h. and then stirred at rt overnight. The reaction was concentrated to dryness and then purified on a BIOTAGE® Horizon (12 g SiO2, 70-90% EtOAc/hexanes) to yield methyl (S)-1-((1R,3S,5R)-3-(5-ethynyl-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-3-methyl-1-oxobutan-2-ylcarbamate (151 mg) as a yellow glass. LC-MS retention time 1.788 min; m/z 331.32 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 3u C18 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where Solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and Solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | Potassium carbonate | 0.248 mmol, 34.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl (S)-3-methyl-1-oxo-1-((1R,3S,5R)-3-(5-((trimethylsilyl)ethynyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)butan-2-ylcarbamate | 0.497 mmol, 200 mg | CC([C@@H](C(N1[C@@H]2C[C@@H]2C[C@H]1C=1NC(=CN1)C#C[Si](C)(C)C)=O)NC(OC)=O)C | C20H30N4O3Si
solvent | methanol | 5 mL | CO | CH4O
product | methyl (S)-1-((1R,3S,5R)-3-(5-ethynyl-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 151 mg | C(#C)C1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C([C@H](C(C)C)NC(OC)=O)=O | C17H22N4O3
